US06642398B2
1-(4-Methoxy-benzyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester 79
To 4-methoxybenzylamine (42 g, 0.306 mol) in methanol (40 mL) at 0° C. was added the dimethyl itaconate (48 g, 0.306 mol) in methanol (13 mL). The solution was stirred at room temperature for 4 days. 1N HCl was added to the solution followed by ether. The two layers were separated and the aqueous phase extracted with ether. The combined organic phases were dried (MgSO4). Upon filtration of the drying agent the desired material 79 precipitated from solution that was collected and dried under vacuum. 23.26 g, 29%. MS, m/z (relative intensity): 264 [M+H, 100%]. Anal. Calcd for C14H17N1O4: C, 63.87; H, 6.51; N, 5.32. Found: C, 63.96; H, 6.55; N, 5.29.

reactant | 4-methoxybenzylamine | 0.306 mol, 42 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | dimethyl itaconate | 0.306 mol, 48 g | C(C(=C)CC(=O)OC)(=O)OC | C7H10O4
reactant | HCl | 1N | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | methanol | 40 mL | CO | CH4O
solvent | methanol | 13 mL | CO | CH4O
product | 1-(4-Methoxy-benzyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C(C1)=O)CC1=CC=C(C=C1)OC | C14H17NO4
